US07846954B2
A stirred solution of (R)-5-(2-(3,5-difluorophenylamino)ethyl)-2,2-dimethyl-1,3-dioxolan-4-one (8.0 g, 29.5 mmol) and p-toluensulfonic acid monohydrate (508 mg, 2.95 mmol) in MeOH (75 mL) under nitrogen was heated to 70° C. for 75 minutes. The reaction mixture was slowly cooled to RT and then continued to stir at RT overnight. The reaction mixture was concentrated under reduced pressure to provide 9.5 g of a brown waxy solid. The solid was dissolved in MeOH (10 mL) and diethyl ether (100 mL) was added. The solution was allowed to stand at RT overnight. The solid was collected, washed with diethyl ether (2×25 mL) and dried under vacuum to provide (R)-1-(3,5-difluorophenyl)-3-hydroxypyrrolidin-2-one as a tan solid (4.09 g, 19.2 mmol, 65%). 1H-NMR (400 MHz, CDCl3) δ 7.35-7.27 (m, 2H), 6.68-6.63 (m, 1H), 4.51 (dd, J=8.3, 9.8 Hz, 1H), 3.85-3.71 (m, 2H), 3.08 (s, 1H), 2.69-2.62 (m, 1H) and 2.19-2.07 (m, 1H) ppm. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=214.1; tR=0.97 min.

reactant | (R)-5-(2-(3,5-difluorophenylamino)ethyl)-2,2-dimethyl-1,3-dioxolan-4-one | 29.5 mmol, 8.0 g | FC=1C=C(C=C(C1)F)NCC[C@@H]1C(OC(O1)(C)C)=O | C13H15F2NO3
reactant | p-toluensulfonic acid monohydrate | 2.95 mmol, 508 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | MeOH | 75 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | (R)-1-(3,5-difluorophenyl)-3-hydroxypyrrolidin-2-one | 19.2 mmol, 4.09 g, 65% | FC=1C=C(C=C(C1)F)N1C([C@@H](CC1)O)=O | C10H9F2NO2
